US06002008
4-(4-Chloro-2-fluoro-5-hydroxy-phenylamino)-6-methoxy-7-(3-morpholin-4yl-propoxy)-quinoline-3-carbonitrile
A mixture of 0.8 g (1.83 mmol) of 4-(4-chloro-2-fluoro-5-hydroxy-phenylamino)-7-(3-chloro-propoxy)-6-methoxy-quinoline-3-carbonitrile, 2.4 g (27.5 mmol) of morpholine, and 0.11 g of sodium iodide in 15 ml ethylene glycol dimethyl ether refluxed for 7 hr. The solvent was removed and the residue was mixed with warm ethyl acetate and saturated sodium bicarbonate solution. The organic layer was separated and dried over magnesium sulfate. Solvent was removed and the residue was recrystallized from ethyl acetate-carbon tetrachloride giving 0.63 of the title compound as a light tan solid: mass spectrum (electrospray, m/e) M+H 487.0; (M+2H)hu +2 243.9.

reactant | 4-(4-chloro-2-fluoro-5-hydroxy-phenylamino)-7-(3-chloro-propoxy)-6-methoxy-quinoline-3-carbonitrile | 1.83 mmol, 0.8 g | ClC1=CC(=C(C=C1O)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCCl)C#N)F | C20H16Cl2FN3O3
reactant | morpholine | 27.5 mmol, 2.4 g | N1CCOCC1 | C4H9NO
reactant | sodium iodide | 0.11 g | [I-].[Na+]
solvent | ethylene glycol dimethyl ether | 15 ml | COCCOC | C4H10O2
product | 4-(4-Chloro-2-fluoro-5-hydroxy-phenylamino)-6-methoxy-7-(3-morpholin-4yl-propoxy)-quinoline-3-carbonitrile | ClC1=CC(=C(C=C1O)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)C#N)F | C24H24ClFN4O4
